US05981776
Process for the preparation of 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-6-carboxylic acid
A mixture of methyl 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-6-carboxylate (140 mg, 0.36 mmol), sodium hydroxide (0.06 g, 1.54 mmol) and lithium hydroxide (0.06 g, 1.54 mmol) is stirred at room temperature for 24 h. The mixture is concentrated on a rotary evaporator under vacuum at 40° C. 10 ml of water and 10 ml of ethyl ether are added. The mixture is acidified with concentrated hydrochloric acid solution to pH 1. After separation of the phases by settling, the organic phase is washed twice with 10 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is obtained by recrystallization from a heptane/ethyl ether mixture (3/1). (90 EtOAc, 10 heptane) (Rf: 0.56).

reactant | methyl 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-6-carboxylate | 0.36 mmol, 140 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1(COC2=C1C=CC(=C2)C(=O)OC)C | C26H32O3
reactant | sodium hydroxide | 1.54 mmol, 0.06 g | [OH-].[Na+]
reactant | lithium hydroxide | 1.54 mmol, 0.06 g | [OH-].[Li+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-6-carboxylic acid | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1(COC2=C1C=CC(=C2)C(=O)O)C | C25H30O3
